US07582773B2
Step 1: Synthesis of 5-Bromo-1-methyl-3-pentyl-2-phenyl-1H-indole.
The desired product was prepared using a procedure similar to step 2 of example 3. Thus, 5-bromo-3-pentyl-2-phenyl-1H-indole (1.711 g, 5.000 mmol) was reacted with k-t-butoxide (0.589 g, 5.250 mmol) and methyl iodide (0.745 g, 5.250 mmol) in DMF (15 ml) to give the product (1.113 g, 3.124 mmol, 62%) as a colorless oil. 1H DMSO-d6) δ 0.76 (t, J=7.0 Hz, 3H), 1.13-1.18 (m, 4H), 1.44-1.50 (m, 2H), 2.58 (t, J=7.6 Hz, 2H), 3.53 (s, 3H), 7.27 (dd, J=2.0, 8.7 Hz, 1H), 7.41-7.44 (m, 3H), 7.48 (t, J=7.5 Hz, 1H), 7.54 (t, J=7.0 Hz, 2H), 7.71 (d, J=1.7 Hz, 1H); [ESI(+)], m/z 356/358 (M+H)+.

reactant | 5-bromo-3-pentyl-2-phenyl-1H-indole | 5.000 mmol, 1.711 g | BrC=1C=C2C(=C(NC2=CC1)C1=CC=CC=C1)CCCCC | C19H20BrN
reactant | methyl iodide | 5.250 mmol, 0.745 g | CI | CH3I
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-1-methyl-3-pentyl-2-phenyl-1H-indole | BrC=1C=C2C(=C(N(C2=CC1)C)C1=CC=CC=C1)CCCCC | C20H22BrN
